*C106M  SCR  A G K  MCE  7-17-95
*Ref: Motorola Thyristor Device Data, Q2/95
*MCE 600V  4A  pkg:TO-225AA
.SUBCKT C106M   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    133MEG
RR  1 4    88.9MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=600 RS=20MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106M
* Origin: Mcetriac.lib
