*D45H8 MCE 4/10/97
*Si 60W 60V 8A 40MHz PwrAmp pkg:TO-220 2,1,3
.SUBCKT D45H8    1 2 3
*    TERMINALS:  C B E
Q1 1 2 3  QPWR .67
Q2 1 4 3  QPWR .33
RBS  2 4  30.5
.MODEL QPWR PNP (IS=590F NF=1 BF=150 VAF=139 IKF=2.67 ISE=345P NE=2
+ BR=4 NR=1 VAR=20 IKR=4 RE=41.4M RB=0.166 RC=16.6M XTB=1.5
+ CJE=258P VJE=0.6 MJE=0.3 CJC=168P VJC=0.22 MJC=0.2 TF=3.98N TR=153N)
.ENDS 

