*EL2002 Macromodel 
* Connections:          +input
*                       |   output
*                       |   |   +Vsupply
*                       |   |   |   -Vsupply
*                       |   |   |   |  
.subckt EL2002          2   7   1   4  
*
* Input Stage 
*
e1 10 0 2 0 1.0
r1 10 0 1K  
rh 10 11 150  
ch 11 0 2pF    
rc 11 12 100
cc 12 0 3pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1 4 13 14 qp  
q2 1 13 15 qn 
q3 1 14 16 qn  
q4 4 15 19 qp 
r2 16 7 1 
r3 19 7 1 
i1 1 14 2mA
i2 15 4 2mA
*
* Bias Current
*
iin+ 2 0 3uA 
*
* Models
*
.model qn npn(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
.model qp pnp(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
*
.ends